2166-09-13 08:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -pt with no acute events o/n
   -remained tachycardic with some improvement post IVF and pain
   medication
   -states that he feels better currently
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2166-9-12**] 10:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2166-9-12**] 10:30 PM
   Metronidazole - [**2166-9-13**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt. says pain is currently well controlled, but does
   feel anxious
   Flowsheet Data as of  [**2166-9-13**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 116 (116 - 130) bpm
   BP: 130/74(88) {130/74(88) - 150/97(109)} mmHg
   RR: 19 (14 - 30) insp/min
   SpO2: 96%
   Height: 71 Inch
             Total In:
                                                                  4,320 mL
                                                                  1,182 mL
   PO:
             TF:
   IVF:
                                                                  1,320 mL
                                                                  1,182 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,250 mL
   Urine:
   1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,320 mL
                                                                    -68 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Inguinal lymph nodes bilaterally
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Wheezes : very slight inspiratory wheezes)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Genital: Scrotum is considerably enlarged, with erythema; desquamation
   leaving paler, not as erythematous skin underneath; some dark areas of
   skin in the erythematous areas; larger area of white skin in the center
   of the scrotum with some serous drainage, no papules, no pustules; no
   vesicular lesions; penis is without lesion; inguinal lymph nodes + as
   above. +Musty odor
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): place, situation, person, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   282 K/uL
   12.8 g/dL
   243 mg/dL
   0.4 mg/dL
   22 mEq/L
   3.4 mEq/L
   9 mg/dL
   105 mEq/L
   135 mEq/L
   37.2 %
   14.4 K/uL
        [image002.jpg]
                            [**2166-9-13**]  04:22 AM
   WBC
   14.4
   Hct
   37.2
   Plt
   282
   Cr
   0.4
   Glucose
   243
   Other labs: PT / PTT / INR:12.2/30.5/1.0, Differential-Neuts:86.1 %,
   Lymph:8.1 %, Mono:4.9 %, Eos:0.7 %, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:1.9 mg/dL
   Assessment and Plan
   This is a 51 year old man with type II diabetes who presents with a two
   day history of scrotal pain, edema, and erythema.
   SCROTAL SWELLING
   CT scan appears to show no gas and therefore low likelihood of
   [**Last Name (un) 10634**]
s gangrene; however, extremely high white count given
   localized infection is concerning for aggressive organisms or spreading
   plane of infection. He does not have suprapubic or lower abdominal
   pain, providing hope that an infection is not tracking beyond the
   scrotum. The desquamation present appears consistent with effects of
   acute edematous enlarged scrotum, in which skin stretched desquamates
   its epithelial layer. However, given that he comes with fever, and
   tachycardia, the story would not be inconsistent with [**Last Name (un) 10634**]
s; or,
   more likely, a more superficial cellulitis. With diabetes, concern for
   pseudomonas; or, in perineal/scrotal infection, concern for [**Last Name (un) 10634**]
   or more localized mixed infection with anaerobes. No clear risk for
   MRSA infection, but consequences of MRSA could be dire.
   - for now, covering with zosyn (gram-negative including pseudomonal
   coverage) and vancomycin (for gram-positive and MRSA coverage);
   - follow up blood cultures from our ED, hopefully at OSH as well
   - hope to de-escalate antibiotic coverage in favor of more targeted
   therapy
   - pain control with tylenol, oxycodone prn
   - scrotal sling for comfort
   - urology is co-managing
   - consulted dermatology and plastic surgery per urology request
will
   f/u consults
   .
   TACHYCARDIA
   In setting of high-normal blood pressure, most concerning for
   inadequately treated pain, although patient denies this. Alternatively,
   could be early stage of systemic inflammation.
   - give more aggressive fluid boluses as patient still appears volume
   down
   - will urge patient to take aggressive prn pain medication as brief
   trial
   .
   DIABETES TYPE II
   On metformin and glargine at home. High sugars in last two days
   consistent with infection, would expect control to improve with
   antibiosis.
   - 38 glargine pm, 5 glargine am, as per home regimen
   - ISS
   - discontinue metformin pending possible need for further imaging
   PAIN CONTROL
   Neuropathy; scrotal pain.
   - gabapentin
   - tylenol, morphine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2166-9-12**] 09:32 PM
   20 Gauge - [**2166-9-12**] 09:33 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: ICU for now pending possible surgical intervention
   ------ Protected Section ------
   MICU Attending Addendum
   On this day I examined the patient  and reviewed his history and was
   present for the key portions of the services provided.  I have also
   reviewed Dr [**Last Name (STitle) 10627**]
s note and agree with her findings and plan of care.
   I have also spoken with plastic surgery consultant.  The patient has
   scrotal cellulitis for which he
s on Zosyn and Vanco, with stable
   symtoms, improving WBC, and stable hemodymics.  Plastics feels that
   part of pt
s scrotal skin is necrotic and suggests definitive surgical
   Rx by urology and have discussed surgical options with them.  The plan
   is to transfer the patient to urology floor when bed available, with
   urology to decide on the exact scrotal Rx and timing of such Rx.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   30 min spent in the direct care of this patient
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2166-9-13**] 14:17 ------

2166-09-14 06:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2166-9-13**] 05:15 PM
   debridement of scrotum by urology
   - plastics consult--> definitely has dead skin in posterior scrotum
   which needs to be excised before it becomes necrotic and spreads;
   patient has potential for worsened sepsis; pt also has some bilat groin
   erythema, which we need to keep an eye on
   - derm consult
   - tachycardia --> 1L fluid bolus x2 in afternoon
   - Urology took him to OR and resected scrotal skin and placed a drain
   - increased IV morphine frequency
   - blood, urine cultured at 12:30am
   - per urology recs, started him on maintenance fluids 175cc/hr NS (x2L)
   at night
   - NPO after midnight because needs further resection by urology in OR
   - tachycardic to 130s in AM sleeping --> gave 500cc NS bolus , then
   continued back on maintenance fluids (then another 500cc NS bolus)
   - BS into 70s this AM, had gotten
 dose insulin last night b/c NPO
   this AM, so given
 amp dextrose this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2166-9-12**] 10:30 PM
   Metronidazole - [**2166-9-13**] 12:00 AM
   Vancomycin - [**2166-9-13**] 08:01 PM
   Piperacillin - [**2166-9-14**] 01:55 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-9-14**] 12:38 AM
   Morphine Sulfate - [**2166-9-14**] 05:05 AM
   Dextrose 50% - [**2166-9-14**] 05:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-9-14**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.9
   HR: 125 (113 - 135) bpm
   BP: 152/80(97) {128/72(88) - 152/111(119)} mmHg
   RR: 13 (11 - 19) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  6,506 mL
                                                                  1,716 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  5,906 mL
                                                                  1,691 mL
   Blood products:
   Total out:
                                                                  4,310 mL
                                                                  1,505 mL
   Urine:
                                                                  3,710 mL
                                                                  1,505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,196 mL
                                                                    211 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, NAD, lying calmly in bed
   Eyes / Conjunctiva: PERRL
   Cardiovascular: regular rhythm, rate 120s, no murmurs appreciated
   Respiratory / Chest:  inspiratory and expiratory  crackles lateral left
   chest; could not assess posterior chest due to post-op supine position
   Abdominal: Soft, Non-tender, Bowel sounds present, non-distended
   Genital:  posterior scrotal area surgically opened w bloody gauze, not
   significant amount of blood, outer gauze packing appears
   serosanguinous
   Extremities: No edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): place, situation, person, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   313 K/uL
   11.9 g/dL
   157 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.3 mEq/L
   5 mg/dL
   102 mEq/L
   135 mEq/L
   33.9 %
   14.7 K/uL
        [image002.jpg]
                            [**2166-9-13**]  04:22 AM
                            [**2166-9-14**]  12:18 AM
   WBC
   14.4
   14.7
   Hct
   37.2
   33.9
   Plt
   282
   313
   Cr
   0.4
   0.4
   Glucose
   243
   157
   Other labs: PT / PTT / INR:13.2/42.1/1.1, Differential-Neuts:86.1 %,
   Lymph:8.1 %, Mono:4.9 %, Eos:0.7 %, Lactic Acid:1.3 mmol/L, Ca++:8.2
   mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   This is a 51 year old man with type II diabetes who presents with a two
   day history of scrotal pain, edema, and erythema.
   # SCROTAL CELLULITIS
   Patient taken to OR for debridement of dead scrotal tissue by Urology.
   If had not been debrided, could have developed into necrosis and
   [**Last Name (un) 10634**]
s.   White count stable -- given localized infection is
   concerning for aggressive organisms or spreading plane of infection.
   Appears to be a superficial cellulitis w risk of spreading if not
   controlled. With diabetes, concern for pseudomonas; or, in
   perineal/scrotal infection, concern for [**Last Name (un) 10634**]
s or more localized
   mixed infection with anaerobes.
   - continue covering with zosyn (gram-negative including pseudomonal
   coverage) and vancomycin (for gram-positive and MRSA coverage);
   - pt may go to OR again today for further debridement, pending CT pelv
   - f/u CT pelvis to see if has new gas tracking down in any planes
   signifying necrosis and spread
   - follow up blood cultures from our ED, hopefully at OSH as well
   - pain control with tylenol, oxycodone prn
   - scrotal sling for comfort
   - urology is co-managing, derm consult
   .
   # TACHYCARDIA
   In setting of high-normal blood pressure, most likely related to
   fever/sepsis (not septic shock); there is also concern for inadequately
   treated pain, although patient denies this.  Pt appears to urinate out
   most of the fluids given to him in past day. Consider PE.  Likely is
   fluid overloaded because O2sat decreases to 91% on RA.  Pt is stable.
   No need to give extra contrast to kidneys at this time for CT-A of
   chest.
   -  monitor
   - PRN pain medication, encourage as needed
   .
   # DIABETES TYPE II
   On metformin and glargine at home.  Holding metformin while in
   hospital.  Given
 dose dextrose this AM for sugar of 70 when NPO.
   - 38 glargine pm, 5 glargine am, as per home regimen
   - ISS
   - holding metformin
   # PAIN CONTROL
   Neuropathy; scrotal pain.
   - gabapentin
   - tylenol, morphine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2166-9-12**] 09:32 PM
   20 Gauge - [**2166-9-12**] 09:33 PM
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: ICU for now, pending another trip to OR w urology
   ------ Protected Section ------
   MICU Attending Addendum
   On this day I examined the patient, reviewed his hospital course and
   was present for the key portions of the services provided. I have
   reviewed Dr [**Last Name (STitle) 10501**]
s note and agree with her findings and plan of care.
   The patient has had excision of non viable scrotal skin by urology and
   is back in [**Hospital Unit Name 1**] comfortable, in minimal pain, without chest pain or
   dyspnea, and has normal oxygenation on room air and has been given 3L
   of fluid IV for tachycardia in the eventuality it might be due to
   volume depletion.  Yet his tachycardia continues unabated at HR of
   135.  He
s not hyperglycemic but is producing lots of dilute urine.
   The etiology of his tachycardia, given all of the above, is not clear.
   We will likely try him on low dose beta blocker to see his HR response
   and also consider assessing his thyroid function and echocardiographic
   cardiac function.  Right now it
s his unexplained tachycardia which is
   keeping him the MICU.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2166-9-14**] 16:00 ------

2166-09-15 06:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Will go to OR today.NPO after midnight
   - f/u CT: Post-surgical changes in the scrotum with a small amount of
   adjacent subcutaneous gas. 2. Small bilateral pleural effusions with
   associated bibasilar atelectasis.
     urology felt this was due to their manipulation in the OR Saturday.
   Not concerned
   - Grew GBS in cultures...on vanc/zosyn. Will keep this until
   sensitivites come back
   - Atrial tachycardia with bigemeny...faxed ekg's to cards and felt this
   is what was happening. I mashed on his neck and he went from 130s to
   40s in seconds. He then went back up to the 90s and stayed. Completely
   asymptomatic. If he continues to go in a-[**Last Name (LF) **], [**First Name3 (LF) **] start dilt. He
   should follow up with his PCP for possible holter in outpatient.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2166-9-13**] 12:00 AM
   Piperacillin - [**2166-9-14**] 01:55 AM
   Vancomycin - [**2166-9-14**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2166-9-15**] 02:00 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2166-9-14**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2166-9-15**] 12:00 AM
   Morphine Sulfate - [**2166-9-15**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-9-15**] 05:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.8
C (98.2
   HR: 82 (82 - 144) bpm
   BP: 129/79(90) {102/53(65) - 165/91(128)} mmHg
   RR: 23 (0 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  8,022 mL
                                                                    100 mL
   PO:
                                                                    940 mL
             TF:
   IVF:
                                                                  7,032 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  9,455 mL
                                                                    760 mL
   Urine:
                                                                  9,455 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,433 mL
                                                                   -660 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, NAD, lying calmly in bed
   Eyes / Conjunctiva: PERRL
   Cardiovascular: regular rhythm, rate 120s, no murmurs appreciated
   Respiratory / Chest:  inspiratory and expiratory  crackles lateral left
   chest; could not assess posterior chest due to post-op supine position
   Abdominal: Soft, Non-tender, Bowel sounds present, non-distended
   Genital:  posterior scrotal area surgically opened w bloody gauze, not
   significant amount of blood, outer gauze packing appears
   serosanguinous
   Extremities: No edema
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): place, situation, person, Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   368 K/uL
   12.1 g/dL
   178 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.9 mEq/L
   7 mg/dL
   102 mEq/L
   137 mEq/L
   36.1 %
   10.5 K/uL
        [image002.jpg]
                            [**2166-9-13**]  04:22 AM
                            [**2166-9-14**]  12:18 AM
                            [**2166-9-14**]  12:24 PM
                            [**2166-9-15**]  04:04 AM
   WBC
   14.4
   14.7
   15.9
   10.5
   Hct
   37.2
   33.9
   38.4
   36.1
   Plt
   282
   313
   392
   368
   Cr
   0.4
   0.4
   0.4
   0.4
   Glucose
   243
   157
   58
   178
   Other labs: PT / PTT / INR:13.1/29.1/1.1, Differential-Neuts:86.1 %,
   Lymph:8.1 %, Mono:4.9 %, Eos:0.7 %, Lactic Acid:1.3 mmol/L, Ca++:8.3
   mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
Micro: GRAM STAIN (Final [**2166-9-13**]):
      3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS IN SHORT CHAINS.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      REPORTED BY PHONE TO [**Last Name (LF) 10676**],[**First Name3 (LF) **] @ 1028PM ON [**2166-9-13**].
   TISSUE (Preliminary):
      BETA STREPTOCOCCUS GROUP B.    HEAVY GROWTH.
   ANAEROBIC CULTURE (Preliminary):
   + [**2-4**] wound swabs and [**1-6**] tissue samples; all other cultures NGTD.
   Assessment and Plan
   This is a 51 year old man with type II diabetes who presents with a two
   day history of scrotal pain, edema, and erythema.
   # SCROTAL CELLULITIS:
   Patient taken to OR for debridement of dead scrotal tissue by Urology.
   If had not been debrided, could have developed into necrosis and
   [**Last Name (un) 10634**]
s.   White count decreased
 Culture grew out GBS. Appears to
   be a superficial cellulitis w risk of spreading if not controlled.
   - continue covering with zosyn (gram-negative including pseudomonal
   coverage) and vancomycin (for gram-positive and MRSA coverage); will
   keep this regimen until sensitivites come back for GBS; consider adding
   pcn
will d/w ID
   - pt to go to OR again today for further debridement
   - follow up blood cultures from our ED, hopefully at OSH as well
   - pain control with tylenol, oxycodone prn
   - scrotal sling for comfort
   - urology is co-managing
   .
   # ATRIAL TACHYCARDIA: Patient with increasing HR yesterday into the
   140
s not relieved with fluids. Appears atrial tachycardia and
   bigemenyCarotid message broke fast rate as patient has been with a HR
   in the 80s after.  Asymptomatic throughout.
   - Should follow up with PCP for possible outpatient holter
   .
   # DIABETES TYPE II
   On metformin and glargine at home.  Holding metformin while in
   hospital.  Given
 dose of insulin as patient is NPO
   - 38 glargine pm, 5 glargine am, as per home regimen
   - ISS
   - holding metformin
   # PAIN CONTROL
   Neuropathy; scrotal pain.
   - gabapentin
   - tylenol, morphine
   ICU Care
   Nutrition: NPO after midnight for surgery today
   Glycemic Control:  HISS plus glargine
   Lines:
   18 Gauge - [**2166-9-12**] 09:32 PM
   20 Gauge - [**2166-9-12**] 09:33 PM
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition: ICU after surgery ; if stable, call out to floor.
   ------ Protected Section ------
   MICU Attending Addendum
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**Last Name (STitle) 10686**]
s note and agree
   with her findings and plan of care. I have also discussed the patient
   case with urology service.  Overall Mr [**Known lastname 10632**] remains stable, and is
   still in NSR following last evening
s carotid sinus massage for what we
   now recognize as an atrial tachycardia.  From the standpoint of his
   scrotal
cellulitis
, he went to the OR today and had drainage of a
   pocket of pus, indicating that this was not just superficial
   cellulitis. This area will be flushed with H202 per urology orders. The
   patient is hemodynamically stable, sugars are fine, and we
ll talk to
   ID about what antibiotic coverage they might advise for Grp B strep
   scrotal infection.  He is well enough to go to the floor tomorrow AM,
   and tonight if bed is emergently needed.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1621**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2166-9-15**] 14:00 ------

2166-09-16 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - went to OR again with urology for another debridement, where they
   found a new area of pus drained in OR w three penrose drains placed
   - Cx's growing GBS
   - Continuing vanc/zosyn pending further cx data, as prelim is GBS,
   additional species of GPC's, and GPR's
   - New diarrhea
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2166-9-14**] 01:55 AM
   Vancomycin - [**2166-9-15**] 09:04 PM
   Piperacillin/Tazobactam (Zosyn) - [**2166-9-16**] 02:52 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-9-16**] 01:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-9-16**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.6
   HR: 85 (83 - 104) bpm
   BP: 137/73(88) {121/63(80) - 150/78(93)} mmHg
   RR: 10 (4 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,896 mL
                                                                    162 mL
   PO:
                                                                    986 mL
             TF:
   IVF:
                                                                  1,910 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                  3,420 mL
                                                                  1,300 mL
   Urine:
                                                                  3,420 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -524 mL
                                                                 -1,138 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, NAD, lying calmly in bed
   Eyes / Conjunctiva: PERRL
   Cardiovascular: regular rhythm, rate 80s, no murmurs appreciated
   Respiratory / Chest:  crackles right lower base
   Abdominal: Soft, Non-tender, Bowel sounds present, non-distended
   Genital:  three penrose drains in scrotum , some pus draining around
   right lower drain
   Extremities: No edema
   Skin:  Warm
   Labs / Radiology
   371 K/uL
   12.0 g/dL
   221 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   9 mg/dL
   103 mEq/L
   136 mEq/L
   34.2 %
   13.4 K/uL
        [image002.jpg]
                            [**2166-9-13**]  04:22 AM
                            [**2166-9-14**]  12:18 AM
                            [**2166-9-14**]  12:24 PM
                            [**2166-9-15**]  04:04 AM
                            [**2166-9-16**]  04:11 AM
   WBC
   14.4
   14.7
   15.9
   10.5
   13.4
   Hct
   37.2
   33.9
   38.4
   36.1
   34.2
   Plt
   282
   313
   392
   368
   371
   Cr
   0.4
   0.4
   0.4
   0.4
   0.7
   Glucose
   243
   157
   58
   178
   221
   Other labs: PT / PTT / INR:13.1/29.1/1.1, Differential-Neuts:86.1 %,
   Lymph:8.1 %, Mono:4.9 %, Eos:0.7 %, Lactic Acid:1.3 mmol/L, Ca++:8.2
   mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
Scrotal Tissue  GRAM STAIN (Final [**2166-9-15**]):
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI IN CHAINS.
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   Assessment and Plan
   This is a 51 year old man with type II diabetes who presented with a
   two day history of scrotal pain, edema, and erythema.
   # SCROTAL CELLULITIS:
   Patient taken to OR twice for debridement of dead scrotal tissue by
   Urology.  If had not been debrided, could have developed into necrosis
   and [**Last Name (un) 10634**]
s.   White count started increasing again this morning
   Culture grew out GBS. Pt did have pus inside posterior scrotal area
   which was drained as much as possible in OR.
   - continue covering with zosyn (gram-negative including pseudomonal
   coverage) and vancomycin (for gram-positive and MRSA coverage); will
   keep this regimen until sensitivites come back for GBS; will consider
   switching to PCN after sensitivities come back
   - follow up blood cultures from our ED
   - pain control with tylenol, oxycodone prn
   - urology is co-managing
   .
   # ATRIAL TACHYCARDIA:
   Patient did not have any further episodes of an SVT overnight.
   Previous night a carotid massage broke the tachycardic rhythm.
   - Should follow up with PCP for possible outpatient holter
   .
   # DIABETES TYPE II
   On metformin and glargine at home.  Holding metformin while in
   hospital.
 dose glargine for NPO.  High sugars in last couple of days
   - increase basal glargine dose
   - ISS
   - holding metformin
   # PAIN CONTROL
   Neuropathy; scrotal pain.
   - gabapentin
   - tylenol, morphine
   # Diarrhea:
   Guaiac Neg
   - check C Diff
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2166-9-12**] 09:32 PM
   20 Gauge - [**2166-9-12**] 09:33 PM
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full Code
   Disposition:  callout to Urology floor today
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points: 51 yo M with DM2 who presented with scrotal
   cellulitis now s/p several OR debridement and drainage procedures. Pt
   was taken back to the OR again yesterday with additional pus collection
   drained.  He remains AF. Now with diarrhea X 2 episodes. No further
   episodes of atrial tachycardia and remains in NSR.
   On exam: AF HR 80  BP137/70  94% RA He is alert and appropriate. Lungs
   with scant basilar rales. RR Abd NT soft +BS.  Scrotal area with 3
   drains in position. Scant serosang drainage with minimal purulence at
   all drain sites, mild induration, NT.
   Labs reviewed: WBC 13.4K, HCT 34, cr 0.7 glu 220
   Micro: GBS and GPC/GPR from scrotal tissue cx
   Agree with plan to continue current broad antibx (zosyn and vanco, day
   3) for scrotal cellulitis and deep tissue infection. Can likely d/c
   vanco once GBS sensitivities are back. Would consult ID for additional
   recs regarding length of antibx course. We continue to co-manage along
   with the urology team.  Hemodynamics remain stable and he remains AF,
   though his wbc is up slightly and his blood sugar remains elevated.
   Will send differential off cbc and monitor closely.  Given diarrhea,
   will check c diff cx.  Will increase his am glargine dosing for
   improved BS control. Pt denies pain, will use Tylenol/oxycodone as
   needed.
   Remainder of plan as outlined in resident note. ICU prophy with sq hep.
   Patient is stable to transfer to floor to urology service.
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2166-9-16**] 01:49 PM ------